US07612211B2
B. 5-{2-[1-(tert-butyl-dimethyl-silanyloxy)-vinyl]-phenyl}-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole
To a solution of 1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-ethanone (0.215 g, 0.524 mmol) in CH2Cl2 (8 mL) at 0° C. was added tert-butyldimethylsilyl trifluoromethanesulfonate (TBSOTf) (0.304 g, 1.15 mmol) and triethylamine (0.29 mL, 2.10 mmol). After stirring 2 h, the reaction mixture was concentrated, and the residue was purified by chromatography (silica, hexanes: EtOAc, 2:1) to afford the title compound as a yellow oil (0.242 g, 88%).

reactant | 1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-ethanone | 0.524 mmol, 0.215 g | FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)C(C)=O)C=C1)(F)F | C23H17F3N2O2
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 1.15 mmol, 0.304 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | triethylamine | 2.10 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 5-{2-[1-(tert-butyl-dimethyl-silanyloxy)-vinyl]-phenyl}-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole | 0.242 g, 88% | C(C)(C)(C)[Si](OC(=C)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)(C)C | C29H31F3N2O2Si
